US05053497
A) Digoxin Dialdehyde
Digoxin (0.4985 g, 0.64 mmole) was dissolved in 10 ml of chloroform/methanol (3/1.5) and placed into a 100 ml two-necked flask. Sodium periodate (0.3102 g, 1.4 mmoles) was dissolved in 4 ml distilled water and placed into a pressure equalized addition funnel. The periodate solution was slowly added to the flask while stirring and under nitrogen. A white precipitate was immediately formed and the reaction was complete within 15 minutes after addition of the periodate. Reaction progress was monitored by TLC (E. M. Merck, pre-coated TLC sheets, silica gel 60 F254 0.2 mm thickness) in chloroform/methanol 10/1 by volume [Rf 0.16=dialdehyde, one homogeneous spot; Rf 0.07=Digoxin. Both spots became dark brownish when sprayed the TLC plate with methanol/concentrated sulfuric acid (9/1 by volume) and placed in 100° C. oven). The reaction mixture was evaporated on a rotatory evaporator and brought up in 30 ml of chloroform and 3 ml of water. The cloudy solution was extracted and the aqueous layer washed three times with 10 ml chloroform. The organic phases were combined (60 ml) and dried over magnesium sulfate. The organic solvents were evaporated to dryness. A light yellow brownish oily material was left. This material was used immediately in the next reaction.

reactant | Digoxin | 0.64 mmole, 0.4985 g | C[C@@H]1[C@H]([C@H](C[C@@H](O1)O[C@@H]2[C@H](O[C@H](C[C@@H]2O)O[C@@H]3[C@H](O[C@H](C[C@@H]3O)O[C@H]4CC[C@]5([C@@H](C4)CC[C@@H]6[C@@H]5C[C@H]([C@]7([C@@]6(CC[C@@H]7C8=CC(=O)OC8)O)C)O)C)C)C)O)O | C41H64O14
reactant | Sodium periodate | 1.4 mmoles, 0.3102 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | periodate | I(=O)(=O)(=O)[O-]
reactant | methanol | CO | CH4O
solvent | chloroform methanol | 10 ml | C(Cl)(Cl)Cl.CO
product | Digoxin Dialdehyde | C[C@@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2CC[C@]3([C@@H](C2)CC[C@@H]4[C@@H]3C[C@H]([C@]5([C@@]4(CC[C@@H]5C6=CC(=O)OC6)O)C)O)C)O)O[C@H]7C[C@@H]([C@@H]([C@H](O7)C)OC(CC=O)OC(C)C=O)O | C41H62O14
